US06387938B1
Synthesis of ethyl 3-(6-hydroxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-hydroxypropanoate hydrochloride
To a suspension of ethyl 3-(6-hydroxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoate (800 mg) obtained in Inventive Example 42 in anhydrous tetrahydrofuran (16 mL), while cooling in an ice bath, was added sodium borohydride (26 mg) and the mixture was stirred at room temperature for 3 hours. The reaction solution was diluted with ice water (10 mL) and adjusted to pH 1 with 4 N hydrochloric acid. This was neutralized with saturated sodium bicarbonate aqueous solution, extracted with ethyl acetate and then washed with brine. The organic layer was dried over anhydrous sodium sulfate and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate). The desired fraction was concentrated and dissolved in hydrochloric acid/ethanol. The solvent was replaced by ether and then ether was evaporated to obtain the title compound as colorless crystal (350 mg).

reactant | ethyl 3-(6-hydroxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-oxopropanoate | 800 mg | OC=1C=C(C2=C(N=C(N2)CCC2=CC=CC=C2)C1)C(CC(=O)OCC)=O | C20H20N2O4
reactant | sodium borohydride | 26 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | ethyl 3-(6-hydroxy-2-(2-phenylethyl)benzimidazol-4-yl)-3-hydroxypropanoate hydrochloride | 350 mg | Cl.OC=1C=C(C2=C(N=C(N2)CCC2=CC=CC=C2)C1)C(CC(=O)OCC)O | InChI=1S/C20H22N2O4.ClH/c1-2-26-19(25)12-17(24)15-10-14(23)11-16-20(15)22-18(21-16)9-8-13-6-4-3-5-7-13;/h3-7,10-11,17,23-24H,2,8-9,12H2,1H3,(H,21,22);1H
